US08431578B2
Step D: 4-tert-Butyl-6-{5-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-pyridin-3-yl}-2-pyridin-2-yl-pyrimidine
To a solution of 4-(5-bromo-pyridin-3-yl)-6-tert-butyl-2-pyridin-2-yl-pyrimidine (1 eq, 200 mg, 0.542 mmol) in EtOH/DME (2 ml, 1:1) is added 4-(4-methyl-piperazin-1-ylmethyl)-phenyl-boronic acid (1.1 eq, 174 mg, 0.596 mmol), aqueous Na2CO3 solution (2 M, 3 eq, 0.812 ml, 1.63 mmol) and Pd(PPh3)4 (0.05 eq, 31 mg, 0.027 mmol). The resulting mixture is heated using microwave radiation for 20 min at 140° C. The mixture is filtered, washed with DCM and concentrated in vacuo. The residue is partitioned between sat. aqueous NaHCO3 solution and DCM and the organic layer is washed with brine, dried (MgSO4) concentrated under reduced pressure. The resulting residue is purified by reverse phase chromatography yielding the title compound; [M+H]+=479. 1H NMR (CDCl3, 400 MHz): 9.26 (d, 1H), 8.95 (d, 1H), 8.87 (m, 1H), 8.66 (t, 1H), 8.62 (m, 1H), 7.88 (td, 1H), 7.77 (s, 1H), 7.64 (d, 2H), 7.47 (d, 2H), 7.41 (ddd, 1H), 3.58 (s, 2H), 2.60-2.43 (m, 8H), 2.32 (s, 3H), 1.51 (s, 9H).

reactant | 4-(5-bromo-pyridin-3-yl)-6-tert-butyl-2-pyridin-2-yl-pyrimidine | 0.542 mmol, 200 mg, 1 eq | BrC=1C=C(C=NC1)C1=NC(=NC(=C1)C(C)(C)C)C1=NC=CC=C1 | C18H17BrN4
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-phenyl-boronic acid | 0.596 mmol, 174 mg, 1.1 eq | CN1CCN(CC1)CC1=CC=C(C=C1)B(O)O | C12H19BN2O2
reactant | Na2CO3 | 1.63 mmol, 2 M, 0.812 ml, 3 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH DME | 2 ml | CCO.COCCOC
catalyst | Pd(PPh3)4 | 0.027 mmol, 31 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-tert-Butyl-6-{5-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-pyridin-3-yl}-2-pyridin-2-yl-pyrimidine | C(C)(C)(C)C1=NC(=NC(=C1)C=1C=NC=C(C1)C1=CC=C(C=C1)CN1CCN(CC1)C)C1=NC=CC=C1 | C30H34N6
